US04564386
A solution of t-butylamine (0.6 g) and 3-chloro-4-(trifluoromethanesulfonamido)benzenesulfonyl chloride (1.5 g) in tetrahydrofuran (20 ml) was allowed to stand overnight. The resultant mixture was concentrated and shaken with chloroform and 5% aqueous hydrochloric acid. The chloroform extract was concentrated and recrystallized from toluene to give 1.03 g of N-t-butyl-3-chloro-4-(trifluoromethanesulfonamido)benzenesulfonamide. M.P., 123°-127.5° C.

reactant | t-butylamine | 0.6 g | C(C)(C)(C)N | C4H11N
reactant | 3-chloro-4-(trifluoromethanesulfonamido)benzenesulfonyl chloride | 1.5 g | ClC=1C=C(C=CC1NS(=O)(=O)C(F)(F)F)S(=O)(=O)Cl | C7H4Cl2F3NO4S2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | N-t-butyl-3-chloro-4-(trifluoromethanesulfonamido)benzenesulfonamide | 1.03 g | C(C)(C)(C)NS(=O)(=O)C1=CC(=C(C=C1)NS(=O)(=O)C(F)(F)F)Cl | C11H14ClF3N2O4S2
